* SPICE Netlist
* Components and Nodes
VIN IN 0 DC 0
RS IN 3 50k
? Missing component
VDD 2 0 DC 5V
* PMOS: M2ed
M2 2 3 2 PMOS
* NMOS: M1
M1 3 Vb 0 NMOS
.MODEL NMOS NMOS (LEVEL=1)
.MODEL PMOS PMOS (LEVEL=1)
.END
